US05596124
Preparation of 2-[(Chloroformyl)methoxy]-5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]benzoyl chloride
A mixture of 2-(carboxymethoxy)-5-[(2-chloro -α,α,α-trifluoro-p-tolyl)oxy]benzoic acid (16.0 g, 40.95 mmol) in methylene chloride is cooled to -8° C., treated with oxalyl chloride (20.8 g, 163.8 mmol) and four drops of N,N-dimethylformamide, stirred for several minutes and concentrated in vacuo to obtain a solid. The solid is dissolved in toluene and the resultant organic solution is concentrated in vacuo to give the title product as an off-white solid (16.7 g, 95.4%).

reactant | 2-(carboxymethoxy)-5-[(2-chloro -α,α,α-trifluoro-p-tolyl)oxy]benzoic acid | 40.95 mmol, 16.0 g | C(=O)(O)COC1=C(C(=O)O)C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C16H10ClF3O6
reactant | oxalyl chloride | 163.8 mmol, 20.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | four drops | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[(Chloroformyl)methoxy]-5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]benzoyl chloride | 16.7 g, 95.4% | ClC(=O)COC1=C(C(=O)Cl)C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C16H8Cl3F3O4
